US07528147B2
tert-Butyl 2-{5,6-dimethoxy-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]indol-1-yl)-acetate is prepared by following the procedure described in example 89c, but using 1.91 g of tert-butyl bromoacetate and 4 g of 2-(5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine. 4.5 g of tert-butyl 2-{5,6-dimethoxy-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]indol-1-yl}acetate are obtained, the characteristics of which are as follows:

reactant | tert-butyl bromoacetate | 1.91 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 2-(5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 4 g | COC=1C=C2C(=CNC2=CC1OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
product | tert-butyl 2-{5,6-dimethoxy-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]indol-1-yl}acetate | 4.5 g | COC=1C=C2C(=CN(C2=CC1OC)CC(=O)OC(C)(C)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C30H31N3O6S
